US04529799
(b) Preparation of 2,2-bis-(5-chloro-pyrid-2-yl)oxirane
A mixture of bis-(5-chloropyrid-2-yl)ketone (0.8 g), trimethylsulphoxonium iodide (0.84 g), cetrimide (0.08 g) and sodium hydroxide (3 g) in water (16 ml) and 1,1,1-trichloroethane (30 ml) was stirred vigorously and heated at 70° to 75° C. for 2.5 hours. Further trimethylsulphoxonium iodide (0.86 g) was added and the mixture heated at 75° to 80° C. for a further 2 hours. The mixture was cooled, diluted with water (10 ml) and extracted with dichloromethane (3×20 ml). The combined organic extracts were dried over magnesium sulfate and evaporated to yield the crude title compound as a brownish paste (0.8 g), which was used directly.

reactant | bis-(5-chloropyrid-2-yl)ketone | 0.8 g | ClC=1C=CC(=NC1)C(=O)C1=NC=C(C=C1)Cl | C11H6Cl2N2O
reactant | trimethylsulphoxonium iodide | 0.84 g | [I-].C[S+](=O)(C)C
reactant | cetrimide | 0.08 g | CCCCCCCCCCCCCC[N+](C)(C)C
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | trimethylsulphoxonium iodide | 0.86 g | [I-].C[S+](=O)(C)C
solvent | water | 16 ml | O | H2O
solvent | 1,1,1-trichloroethane | 30 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | water | 10 ml | O | H2O
product | 2,2-bis-(5-chloro-pyrid-2-yl)oxirane | ClC=1C=CC(=NC1)C1(OC1)C1=NC=C(C=C1)Cl | C12H8Cl2N2O
